US06933311B2
N-[4-(8-azabicyclo[3.2.1]oct-8-yl)-3-(trifluoromethyl)benzyl]-N′-1H-indazol-4-ylurea
A suspension of methyl 4-[({[4-(8-azabicyclo[3.2.1]oct-8-yl)-3-(trifluoromethyl)benzyl]amino}carbonyl)amino]-1H-indazole-1-carboxylate (1.65 g, 3.29 mmol) in methanol (30 mL) was treated with 1.2 N NaOH in MeOH (10 mL). The mixture was stirred for 30 minutes and concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated NaHCO3 solution. The separated aqueous phase was extracted with ethyl acetate and the combined organic layers were washed with brine, dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (7% to 10% MeOH/CH2Cl2) to provide the title compound as a solid. The obtained solid was treated with ethanolic HCl followed by precipitation with diethyl ether to provide the hydrochloride salt. 1H NMR (300 MHz, DMSO-d6) δ 8.99 (s, 1H), 8.19 (s, 1H), 7.62 (d, 1H, J=7.5 Hz), 7.57 (d, 1H, J=2.0 Hz), 7.46 (dd, 1H, J=8.5, 2.0 Hz), 7.19 (t, 1H, J=8.1 Hz), 7.10 (m, 3H), 4.31 (m, 2H), 3.72 (m, 2H), 1.93 (m, 2H), 1.87-1.56 (m, 5H), 1.48 (m, 3H); MS (ESI) 444 (M+H)+; Anal. Calcd for C23H24F3N5O.1.6HCl: C, 55.05; H, 5.14; N, 13.96. Found: C, 54.95; H, 4.66; N, 13.53.

reactant | methyl 4-[({[4-(8-azabicyclo[3.2.1]oct-8-yl)-3-(trifluoromethyl)benzyl]amino}carbonyl)amino]-1H-indazole-1-carboxylate | 3.29 mmol, 1.65 g | C12CCCC(CC1)N2C2=C(C=C(CNC(=O)NC1=C3C=NN(C3=CC=C1)C(=O)OC)C=C2)C(F)(F)F | C25H26F3N5O3
reactant | NaOH | 1.2 N | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | N-[4-(8-azabicyclo[3.2.1]oct-8-yl)-3-(trifluoromethyl)benzyl]-N′-1H-indazol-4-ylurea | C12CCCC(CC1)N2C2=C(C=C(CNC(=O)NC1=C3C=NNC3=CC=C1)C=C2)C(F)(F)F | C23H24F3N5O
